US04294969
A mixture of ethyl 2-bromo-5-methylnicotinate (7.1 g, 0.03 m) and 10% NaOH solution (500 ml) was heated on a stream bath with stirring. After 3 hours, the solution was cooled and neutralized with 12 N HCl. After cooling in an ice bath, the mixture was filtered to yield 5.6 g (39% yield) of 2-bromo-5-methylnicotinic acid.

reactant | ethyl 2-bromo-5-methylnicotinate | 7.1 g | BrC1=C(C(=O)OCC)C=C(C=N1)C | C9H10BrNO2
reactant | HCl | 12 N | Cl | ClH
solvent | NaOH | 500 ml | [OH-].[Na+]
product | 2-bromo-5-methylnicotinic acid | 5.6 g, 39% yield | BrC1=C(C(=O)O)C=C(C=N1)C | C7H6BrNO2
